US08053457B2
(4-Adamantan-1-yl-piperazin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 1-Adamantyl-piperazine (commercially available from CHESS GmbH) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+=260.3: 1HNMR(DMSO-d6) 3.65 (s, 2H), 2.60-2.50 (m, 4H), 2.45-2.40 (m, 4H), 2.00 (bs, 3H), 1.60-1.50 (m, 12H).

reactant | 1-Adamantyl-piperazine | C12(CC3CC(CC(C1)C3)C2)N2CCNCC2 | C14H24N2
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Adamantan-1-yl-piperazin-1-yl)-acetonitrile | C12(CC3CC(CC(C1)C3)C2)N2CCN(CC2)CC#N | C16H25N3
